US07915281B2
Under a nitrogen atmosphere, a solution of 2-(ethoxymethyl)-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-1H-imidazo[4,5-c][1,5]naphthyridin-4-amine (0.40 g, 0.96 mmol) in dichloromethane (25 mL) was cooled on an ice bath, and boron tribromide (2.4 mL of a 1 M solution in dichloromethane) was added. The reaction was stirred for 17 hours, and an analysis by HPLC indicated the presence of starting material. Additional boron tribromide (1 mL) was added after 17 hours and then again after 32 hours of reaction time. After 32 hours of reaction time, methanol was added, and the solvents were removed under reduced pressure. The residue was triturated with water, isolated by filtration, washed with diethyl ether, recrystallized from methanol, and dried under high vacuum at 100° C. to provide 0.14 g of (4-amino-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-1H-imidazo[4,5-c][1,5]naphthyridin-2-yl)methanol as a white solid, mp 247.0-248.0° C.

reactant | 2-(ethoxymethyl)-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-1H-imidazo[4,5-c][1,5]naphthyridin-4-amine | 0.96 mmol, 0.40 g | C(C)OCC=1N(C2=C(C(=NC=3C=CC=NC23)N)N1)CC1=CC(=NO1)C1=CC=C(C=C1)F | C22H19FN6O2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | boron tribromide | 1 mL | B(Br)(Br)Br | BBr3
reactant | methanol | CO | CH4O
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | (4-amino-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-1H-imidazo[4,5-c][1,5]naphthyridin-2-yl)methanol | 0.14 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CC2=CC(=NO2)C2=CC=C(C=C2)F)CO | C20H15FN6O2
